US07279478B2
Synthesis of (2S)-N-(cyanomethyl)-4-methyl-2-{[(R)-phenyl(4′-piperazin-1-yl-1,1′-biphenyl-4-yl)methyl]oxy}pentanamide
(2S)-2-{[(R)-(4-bromophenyl)(phenyl)methyl]oxy}-N-(cyanomethyl)-4-methylpentanamide (1 g, 2.41 mmol) 1-[4-(dihydroxyboryl)phenyl]piperazin-4-ium chloride (642 mg, 2.65 mmol), PdCl2(dppf) (88 mg, 0.120 mmol) and 2M Na2CO3 (4.8 ml, 9.63 mmol) were dissolved in 25 ml DMF, the solution was degassed 3 times and heated for 10 h @ 85° C. The solution was cooled, poured into 125 ml NaHCO3 (sat.) and the product extracted with 3×25 ml ethyl acetate. The combined organic layers were then washed with 4× water, then dried with Na2SO4. The product was then purified on silica gel (5% MeOH/5% NH4OH/90% DCM).

reactant | (2S)-2-{[(R)-(4-bromophenyl)(phenyl)methyl]oxy}-N-(cyanomethyl)-4-methylpentanamide | 2.41 mmol, 1 g | BrC1=CC=C(C=C1)[C@H](O[C@H](C(=O)NCC#N)CC(C)C)C1=CC=CC=C1 | C21H23BrN2O2
reactant | Na2CO3 | 9.63 mmol, 2M, 4.8 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.120 mmol, 88 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2S)-N-(cyanomethyl)-4-methyl-2-{[(R)-phenyl(4′-piperazin-1-yl-1,1′-biphenyl-4-yl)methyl]oxy}pentanamide | C(#N)CNC([C@H](CC(C)C)O[C@@H](C1=CC=C(C=C1)C1=CC=C(C=C1)N1CCNCC1)C1=CC=CC=C1)=O | C31H36N4O2
